US09227955B2
Step 1: Preparation of 2-(1-benzylpiperidin-4-ylamino)nicotinyl chloride
A solution of 2-(1-benzylpiperidin-4-ylamino)nicotinic acid (311 mg, 1.0 mmol, 1.0 eq) prepared in Preparation Example 16, and thionyl chloride (1.5 mmol) in 5 ml of methylene chloride was stirred for 1 hr under reflux. The reaction mixture was cooled to room temperature and immediately used in the next step without further purification.

reactant | 2-(1-benzylpiperidin-4-ylamino)nicotinic acid | 1.0 mmol, 311 mg, 1.0 eq | C(C1=CC=CC=C1)N1CCC(CC1)NC1=C(C(=O)O)C=CC=N1 | C18H21N3O2
reactant | thionyl chloride | 1.5 mmol | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 2-(1-benzylpiperidin-4-ylamino)nicotinyl chloride | C(C1=CC=CC=C1)N1CCC(CC1)NC1=C(CCl)C=CC=N1 | C18H22ClN3
